US04309426
3.99 g (0.03 mole) of 4-isopropyl-thiosemicarbazide and 6.70 g (0.03 mole) of 2,4-dichlorophenacyl chloride are reacted in 150 ml of methanol under the conditions of Example 2. The concentrated product is crystallized and recrystallized from methanol/ethyl acetate. The product is dried under high vacuum at 65° C. and recrystallized again from methanol/ethyl acetate. It is finally dried again at 65° C. under high vacuum producing 5-(2,4-dichlorophenyl)-N-(1-methylethyl)-6H-1,3,4-thiadiazin-2-amine monohydrochloride. m.p. 207°-208° C.

reactant | 4-isopropyl-thiosemicarbazide | 0.03 mole, 3.99 g | C(C)(C)NC(NN)=S | C4H11N3S
reactant | 2,4-dichlorophenacyl chloride | 0.03 mole, 6.70 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
solvent | methanol | 150 ml | CO | CH4O
product | 5-(2,4-dichlorophenyl)-N-(1-methylethyl)-6H-1,3,4-thiadiazin-2-amine monohydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C1=NN=C(SC1)NC(C)C | InChI=1S/C12H13Cl2N3S.ClH/c1-7(2)15-12-17-16-11(6-18-12)9-4-3-8(13)5-10(9)14;/h3-5,7H,6H2,1-2H3,(H,15,17);1H
